US07902248B2
(E)-(3-Chloro-4-methanesulfonyl-phenyl)-cyclopentyloxyimino-acetic acid (93 mg, 0.27 mmol), 1-methyl-1H-pyrazol-3-ylamine (29 μL, 0.30 mmol) and N,N-diisopropylethylamine (141 μL, 0.81 mmol) were combined in acetonitrile (1.25 mL) and cooled in an ice bath. O-(7-Azabenzotriazole-1-yl)-N,N,N′N′-tetramethyluronium hexafluorophosphate (103 mg, 0.27 mmol) was added and the ice bath was removed. After stirring 2 h, the reaction mixture was evaporated in vacuo. The residue was treated with saturated aqueous sodium bicarbonate solution (1 mL) and extracted with chloroform (2×3 mL). The combined organic phases were dried over sodium sulfate and evaporated in vacuo. The residue was purified by flash column chromatography (Merck silica gel 60, 40-63 μm; 60% ethyl acetate/hexanes) to afford (E)-2-(3-chloro-4-methanesulfonyl-phenyl)-2-cyclopentyloxyimino-N-(1-methyl-1H-pyrazol-3-yl)-acetamide (79 mg, 69%) as a white solid after lyophilization from aqueous acetonitrile: LC-MS (ESI) m/e calcd for C18H21ClN4O4S [M+] 424.10, found 425 [M+H+]; H1-NMR (400 MHz, CDCl3) δ ppm 1.64 (m, 4 H, 2×CH2), 1.86 (m, 4 H, 2×CH2), 3.29 (s, 3 H, SO2CH3), 3.85 (s, 3 H, NCH3), 4.88 (p, J=4.1 Hz, 1 H, OCH), 6.69 (d, J=2.3 Hz, 1 H, Ar), 7.28 (d, J=2.3 Hz, 1 H, Ar), 7.55 (dd, Jo=8.2, Jm=1.3 Hz, 1 H, Ar), 7.66 (d, Jm=1.3 Hz, 1 H, Ar), 8.18 (d, Jo=8.2 Hz, 1 H, Ar), 9.16 (s, 1 H, NH).

reactant | (E)-(3-Chloro-4-methanesulfonyl-phenyl)-cyclopentyloxyimino-acetic acid | 0.27 mmol, 93 mg | ClC=1C=C(C=CC1S(=O)(=O)C)\C(\C(=O)O)=N/OC1CCCC1 | C14H16ClNO5S
reactant | 1-methyl-1H-pyrazol-3-ylamine | 0.30 mmol, 29 μL | CN1N=C(C=C1)N | C4H7N3
reactant | N,N-diisopropylethylamine | 0.81 mmol, 141 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | acetonitrile | 1.25 mL | C(C)#N | C2H3N
product | (E)-2-(3-chloro-4-methanesulfonyl-phenyl)-2-cyclopentyloxyimino-N-(1-methyl-1H-pyrazol-3-yl)-acetamide | 79 mg, 69% | ClC=1C=C(C=CC1S(=O)(=O)C)\C(\C(=O)NC1=NN(C=C1)C)=N/OC1CCCC1 | C18H21ClN4O4S
